US09428456B2
(8.001 b): 5-Amino-pyridine-2-carboxylic acid [3-(4-tert-butylcarbamoyl-piperidin-1-ylmethyl)-phenyl]-amide
A solution of {6-[3-(4-tert-butylcarbamoyl-piperidin-1-ylmethyl)-phenylcarbamoyl]-pyridin-3-yl}-carbamic acid tert-butyl ester (1.21 g, 2.37 mmol) in dioxane (15 mL) is cooled to 0° C. and HCl 4M in dioxane (2.4 mL, 9.497 mmol) is added. The RM is stirred at RT for 1 h and then heated at 60° C. overnight. The red mixture is cooled down to RT and filtered. The filtercake is washed with dioxane (15 mL). The red solid residue is partitioned between DCM (15 mL) and aq.sat.NaHCO3 (15 mL). The aqueous phase is extracted twice with DCM (2×20 mL). The combined org phase are dried over MgSO4, filtered and concentrated until dryness. The title compound is obtained as a yellowish foam LC-MS C: tR=0.61 min; [M+H]+=410.4.

reactant | {6-[3-(4-tert-butylcarbamoyl-piperidin-1-ylmethyl)-phenylcarbamoyl]-pyridin-3-yl}-carbamic acid tert-butyl ester | 2.37 mmol, 1.21 g | C(C)(C)(C)OC(NC=1C=NC(=CC1)C(NC1=CC(=CC=C1)CN1CCC(CC1)C(NC(C)(C)C)=O)=O)=O | C28H39N5O4
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 9.497 mmol, 2.4 mL | O1CCOCC1 | C4H8O2
product | 5-Amino-pyridine-2-carboxylic acid [3-(4-tert-butylcarbamoyl-piperidin-1-ylmethyl)-phenyl]-amide | C(C)(C)(C)NC(=O)C1CCN(CC1)CC=1C=C(C=CC1)NC(=O)C1=NC=C(C=C1)N | C23H31N5O2
